US04061761
4-(4-Chloro-3-sulfamoylphenyl)-2-isobutylimino-3-methyl-1,3-thiazolidine-4-ol-hydrobromide
6.2 g of 4'-chloro-3'-sulfamoyl-2-bromoacetophenone and 3.0 g of 1-isobutyl-3-methylthiourea were reacted according to the prescription made in Example 23 and the colorless end product was precipitated with 200 ml of diethyl ether.

reactant | 4'-chloro-3'-sulfamoyl-2-bromoacetophenone | 6.2 g | ClC1=C(C=C(C=C1)C(CBr)=O)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1-isobutyl-3-methylthiourea | 3.0 g | C(C(C)C)NC(=S)NC | C6H14N2S
product | 4-(4-Chloro-3-sulfamoylphenyl)-2-isobutylimino-3-methyl-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NCC(C)C)C)O)S(N)(=O)=O | InChI=1S/C14H20ClN3O3S2.BrH/c1-9(2)7-17-13-18(3)14(19,8-22-13)10-4-5-11(15)12(6-10)23(16,20)21;/h4-6,9,19H,7-8H2,1-3H3,(H2,16,20,21);1H
